US04788280
A 250 ml. three neck flask was equipped with magnetic stir bar, reflux condenser, addition funnel and nitrogen inlet. Dry nitrogen was swept through the apparatus while it was heated with a heat gun. After the apparatus was cooled, 5.95 g. of a 60% oil dispersion of sodium hydride (0.149 mole) was added and triturated three times with 25 ml. of petroleum ether to remove the oil. A solution of 36.6 g. (0.3 mole) 4-hydroxybenzaldehyde in 100 ml. of tetrahydrofuran was added dropwise to the sodium hydride over 30 mins. When the addition was complete, 1.1 g. (0.0003 mole) tert-butyl ammonium iodide was added along with 30.7 g. (0.33 mole) epichlorohydrin. The reaction mixture was refluxed overnight, cooled, filtered, and the solvent removed under vacuum. Excess epichlorohydrin was removed by azeotropic distillation using a ten fold excess of toluene. Yield was 40% of 4-glycidoxy benzaldehyde.

reactant | sodium hydride | 0.149 mole | [H-].[Na+]
reactant | 4-hydroxybenzaldehyde | 0.3 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | tert-butyl ammonium iodide | 0.0003 mole | [I-].C(C)(C)(C)[NH3+]
reactant | epichlorohydrin | 0.33 mole | C(Cl)C1CO1 | C3H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-glycidoxy benzaldehyde | Yield was 40% | C(C1CO1)OC1=CC=C(C=O)C=C1 | C10H10O3
